US04128652
A mixture of N-methyl-N'-(2-pyridyl)-formamidine (2.5 g, 0.0185 m), 2,4-dimethylphenylisocyanide (2.4 g, 0.0185 m), cuprous oxide (trace amount) and dry toluene (60 ml) was heated on a steam bath with occasional agitation for 4 hours. The reaction mixture was then cooled, filtered through "Hyflo" (diatomaceous earth) and alumina, and the toluene filtrate evaporated to dryness in vacuo to yield a viscous oil. The oil was triturated with 60°-80° petroleum ether to yield a white solid. Crystallisation of this solid from ether/60° -- 80° petroleum ether yielded the product, 5-(2,4-dimethylphenyl)-3-methyl-1-(2-pyridyl)-1,3,5-triazapenta-1,4-diene, (1.0 g) m.p. 100°.

reactant | N-methyl-N'-(2-pyridyl)-formamidine | 2.5 g | CNC=NC1=NC=CC=C1 | C7H9N3
reactant | 2,4-dimethylphenylisocyanide | 2.4 g | CC1=C(C=CC(=C1)C)[N+]#[C-] | C9H9N
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(2,4-dimethylphenyl)-3-methyl-1-(2-pyridyl)-1,3,5-triazapenta-1,4-diene | 1.0 g | CC1=C(C=CC(=C1)C)N=CN(C=NC1=NC=CC=C1)C | C16H18N4
